US07307094B2
A mixture of 6-bromo-2-p-tolylbenzoxazole-4-carboxylic acid (85 mg, 0.26 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (60 mg, 0.31 mmol), 1-hydroxybenzotriazole (60 mg, 0.31 mmol) and 3-aminoquinuclidine dihydrochloride (61 mg, 0.31 mmol) in DMF (5 mL) was stirred 10 min at room temperature, then triethylamine (0.12 mL, 1.02 mmol) was added. The resulting reaction mixture was stirred at room temperature overnight. The mixture was diluted with ethyl acetate (20 mL), and then washed with a saturated solution of sodium bicarbonate. The aqueous layer was further extracted with ethyl acetate (2×25 mL). The combined organic layers were dried (Na2SO4), filtered and concentrated under reduced pressure. The crude material was purified by column chromatography (silica gel, 90:9:1 ethyl acetate/methanol/concentrated ammonium hydroxide) to afford N-(1-azabicyclo[2.2.2]oct-3-yl)-6-bromo-2-p-tolylbenzoxazole-4-carboxamide (60 mg, 54%) as a white solid: 1H NMR (500 MHz, CDCl3) δ 9.48 (d, J=7.3 Hz, 1H), 8.30 (d, J=1.8 Hz, 1H), 8.10 (d, J=8.3 Hz, 2H), 7.85 (d, J=1.8 Hz, 1H), 7.37 (d, J=8.0 Hz, 2H), 4.35-4.25 (m, 1H), 3.60-3.45 (m, 1H), 3.15-3.00 (m, 2H), 2.95-2.82 (m, 2H),

reactant | 6-bromo-2-p-tolylbenzoxazole-4-carboxylic acid | 0.26 mmol, 85 mg | BrC=1C=C2C(N=C(O2)C2=CC=C(C=C2)C)=C(C1)C(=O)O | C15H10BrNO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.31 mmol, 60 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.31 mmol, 60 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-aminoquinuclidine dihydrochloride | 0.31 mmol, 61 mg | Cl.Cl.NC1CN2CCC1CC2
reactant | triethylamine | 1.02 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-(1-azabicyclo[2.2.2]oct-3-yl)-6-bromo-2-p-tolylbenzoxazole-4-carboxamide | 60 mg, 54% | N12CC(C(CC1)CC2)NC(=O)C=2C=C(C=C1C2N=C(O1)C1=CC=C(C=C1)C)Br | C22H22BrN3O2
